US05108486
To a stirred mixture of 9.9 g (0.086 mole) of thiophosgene, 5.0 g (0.036 mole) of potassium carbonate in 55 ml of water and 100 ml of chloroform was added a solution of 20.0 g (0.0862 mole) of 4-iodo-2-methylaniline in 50 ml of chloroform. Additional potassium carbonate was added to make the reaction mixture basic. An additional 9.9 g of thiophosgene was added, and the reaction mixture was stirred at room temperature for approximately 18 hours. The mixture was partitioned between water (100 ml) and chloroform (100 ml). The organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride to yield 22.6 g of 4-iodo-2-methylphenyl isothiocyanate as a solid, mp 51°-53° C.

reactant | thiophosgene | 0.086 mole, 9.9 g | C(=S)(Cl)Cl | CCl2S
reactant | potassium carbonate | 0.036 mole, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-iodo-2-methylaniline | 0.0862 mole, 20.0 g | IC1=CC(=C(N)C=C1)C | C7H8IN
reactant | thiophosgene | 9.9 g | C(=S)(Cl)Cl | CCl2S
solvent | water | 55 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-iodo-2-methylphenyl isothiocyanate | 22.6 g | IC1=CC(=C(C=C1)N=C=S)C | C8H6INS
